US07601844B2
2-Chloro-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)acetamide (35 mg, 0.084 mmol), potassium carbonate (35 mg, 0.253 mmol), methyl 2-hydroxybenzoate (13 mg, 0.084 mmol) and DMSO (3 mL) were mixed with stirring at 25° C. The reaction was stirred for 20 hours, diluted with EtOAc, and then rinsed 4 times with water. The organic layer was dried over sodium sulfate and concentrated in vacuo to give an amber oil which was purified over silica gel in (3:1 to 1:1 hexanes/EtOAc to 100% EtOAc) to obtain methyl 2-(2-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylamino)-2-oxoethoxy)benzoate (18 mg, 0.034 mmol, 40% yield) as a white glass. MS found: (M+H)+=531.21.

reactant | 2-Chloro-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)acetamide | 0.084 mmol, 35 mg | ClCC(=O)N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C | C20H28Cl2N2O3
reactant | potassium carbonate | 0.253 mmol, 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-hydroxybenzoate | 0.084 mmol, 13 mg | OC1=C(C(=O)OC)C=CC=C1 | C8H8O3
reactant | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 2-(2-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylamino)-2-oxoethoxy)benzoate | 0.034 mmol, 18 mg, 40% yield | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC(COC1=C(C(=O)OC)C=CC=C1)=O)=O)(C)C)O | C28H35ClN2O6
